US05329042
(3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone
3.8 g of (3S, 4R)-3-methoxycarbonyl-4-methylhexane dicarboxylic acid and 1.1 g of sodium acetate were added to 18 ml of acetic anhydride, and the mixture was refluxed for one hour. The reaction mixture was cooled down to room temperature, and then allowed to stand for one hour at 5° C. The resulting precipitate was filtered off, and the filtrate was concentrated. To the residue was added ethyl acetate, and after the insoluble material was filtered off, the filtrate was concentrated. The residue was purified by distillation under a reduced pressure, and thus 2.23 g of the titled compound was obtained.

reactant | (3S, 4R)-3-methoxycarbonyl-4-methylhexane dicarboxylic acid | 3.8 g | COC(=O)[C@@H](CC(C(=O)O)C(=O)O)[C@@H](CC)C | C11H18O6
reactant | sodium acetate | 1.1 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone | 2.23 g | COC(=O)[C@H]1CC(C[C@H]1C)=O | C8H12O3
